US06169091A
4-[3-Chloro-4-(2-fluorobenzyloxy)anilino]-5-methylthieno[2,3-d]pyrimidine hydrochloride
4-Chloro-5-methylthieno[2,3-d]pyrimidine (commercially available from Maybridge Chemical Co. Ltd.) (0.092 g, 0.50 mmol) and 3-chloro-4-(2-fluorobenzyloxy)aniline (prepared according to the published method: WO 96/09294) (0.164 g, 0.65 mmol) were reacted in 2-propanol (3.5 ml) for 4 hours, according to Procedure A. The product was obtained as cream plates (0.156 g, 72%) with m.p. 193-196° C.; (Found: C, 55.17; H, 3.77; N, 9.56. C20H15ClFN3OS.HCl requires: C, 55.05; H, 3.70; N, 9.63%); δH [2H6]-DMSO 8.39 (1H, s, 2-H), 8.37 (1H, br s, N—H), 7.75 (1H, d, J 4, 2′-H), 7.49-7.59 (2H, m), 7.34-7.44 (1H, m), 7.15-7.32 (4H, m) (6-H, 5′-H, 6′-H, 3″-H, 4″-H, 5″-H, 6″-H), 5.19 (2H, s, CH2), 2.69 (3H, s, 5-CH3); m/z 400 (M+1+).

reactant | 4-Chloro-5-methylthieno[2,3-d]pyrimidine | ClC=1C2=C(N=CN1)SC=C2C | C7H5ClN2S
reactant | 3-chloro-4-(2-fluorobenzyloxy)aniline | ClC=1C=C(N)C=CC1OCC1=C(C=CC=C1)F | C13H11ClFNO
solvent | 2-propanol | 3.5 ml | CC(C)O | C3H8O
product | 4-[3-Chloro-4-(2-fluorobenzyloxy)anilino]-5-methylthieno[2,3-d]pyrimidine hydrochloride | Cl.ClC=1C=C(NC=2C3=C(N=CN2)SC=C3C)C=CC1OCC1=C(C=CC=C1)F | InChI=1S/C20H15ClFN3OS.ClH/c1-12-10-27-20-18(12)19(23-11-24-20)25-14-6-7-17(15(21)8-14)26-9-13-4-2-3-5-16(13)22;/h2-8,10-11H,9H2,1H3,(H,23,24,25);1H
